US04234588
Nitroguanidine (4.7 g) was added to a solution of sodium methoxide (prepared from 1.15 g sodium) in methanol (50 ml) and the mixture was refluxed for 45 minutes. Ethyl 2-formyl-3-(6-methoxy-3-pyridyl)propionate (10.7 g) was added and the mixture was refluxed for 34 hours and evaporated to a residue. This residue was dissolved in water and the solution was extracted with chloroform (subsequently discarded). The aqueous solution was adjusted to pH 5 with acetic acid, and the solid which precipitated out was filtered off to give 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone m.p. 183.5°-186°.

reactant | Nitroguanidine | 4.7 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | sodium methoxide | 1.15 g | C[O-].[Na+]
reactant | Ethyl 2-formyl-3-(6-methoxy-3-pyridyl)propionate | 10.7 g | C(=O)C(C(=O)OCC)CC=1C=NC(=CC1)OC | C12H15NO4
solvent | methanol | 50 ml | CO | CH4O
product | 2-nitroamino-5-(6-methoxy-3-pyridylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)OC | C11H11N5O4
